US07652041B2
4-chloro-N-[2-(dimethylamino)ethyl]pyridine-2-carboxamide
To a solution of thionyl chloride (7.4 mL, 101 mmol) in DMF was added pyridine-2-carboxylic acid (2.5 g, 20.3 mmol). The reaction mixture was heated at 95° C. for 12 h and then concentrated. The residue was redissolved in DMF (7 mL) and N,N-dimethylethane-1,2-diamine (11 mL, 101.5 mmol) was added. After stirring for 15 min, the mixture was concentrated and the residue was purified by column chromatography (0-10% methanol/dichloromethane) to yield 2.11 g of the title compound (46%). LCMS: (FA) ES+ 227.9 (M+1)

reactant | thionyl chloride | 101 mmol, 7.4 mL | S(=O)(Cl)Cl | Cl2OS
reactant | pyridine-2-carboxylic acid | 20.3 mmol, 2.5 g | N1=C(C=CC=C1)C(=O)O | C6H5NO2
reactant | N,N-dimethylethane-1,2-diamine | 101.5 mmol, 11 mL | CN(CCN)C | C4H12N2
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-chloro-N-[2-(dimethylamino)ethyl]pyridine-2-carboxamide | 2.11 g, 46% | ClC1=CC(=NC=C1)C(=O)NCCN(C)C | C10H14ClN3O
